US04000146
To a solution of 2-amino-6-methyl-3,5-dinitropyridine (24.9 g, 0.125 mole) and 175 ml dimethylsulfoxide in a 500 ml Parr bottle was added a solution of methylamine (20 g, 0.65 mole) in 75 ml N,N-dimethylacetamide. The reaction was shaken for 6 hours at ambient temperature and then heated 15 hours at 70° C. Upon cooling, the mixture was diluted with water, filtered, washed with methanol-water (1v/1v) and dried. 2-(methylamino)-6-methyl-3,5-dinitropyridine was obtained as a yellow solid (82% yield). Anal. Calcd. for C7H8N4O4 : C, 39.6; H, 3.8; N, 26.4. Found: C, 39.6; H, 3.9; N, 26.3.

reactant | 2-amino-6-methyl-3,5-dinitropyridine | 0.125 mole, 24.9 g | NC1=NC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C | C6H6N4O4
reactant | dimethylsulfoxide | 175 ml | CS(=O)C | C2H6OS
reactant | methylamine | 0.65 mole, 20 g | CN | CH5N
solvent | N,N-dimethylacetamide | 75 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-(methylamino)-6-methyl-3,5-dinitropyridine | CNC1=NC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C | C7H8N4O4
